US04837333
A stirred mixture of 2-hydroxy-4-methylbenzoic acid (75 g, 0.50 mol), sodium hydroxide (42 g, 1.0 mol) and water (250 ml) was cooled to 10° C. and treated dropwise with dimethyl sulphate (126 g, 1.0 mol). The mixture was stirred for 6 days, poured into water (4000 ml), acidified with sulfuric acid and extracted with dichloromethane (4×600 ml). The extracts were combined, washed with water, dried over sodium sulfate and the solvent was evaporated off under reduced pressure. The resulting oil was treated with aqueous sodium hydroxide (1000 ml of 2M) and heated under reflux for 2 hours. The mixture was acidified with hydrochloric acid and extracted with dichloromethane (3×300 ml). The combined extracts were dried over sodium sulfate and the solvent was evaporated off under reduced pressure to give the crude product as an oil. The crude product was purified by column chromatography (silica gel, chloroform) and recrystallized from chloroform-hexane to yield 2-methoxy-4-methylbenzoic acid as a colorless crystalline solid, having a melting point of 108°-109° C.

reactant | 2-hydroxy-4-methylbenzoic acid | 0.50 mol, 75 g | OC1=C(C(=O)O)C=CC(=C1)C | C8H8O3
reactant | sodium hydroxide | 1.0 mol, 42 g | [OH-].[Na+]
reactant | dimethyl sulphate | 1.0 mol, 126 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 4000 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 2-methoxy-4-methylbenzoic acid | COC1=C(C(=O)O)C=CC(=C1)C | C9H10O3
